US06248738B1
4-Chloro-1-(2H)-isoquinolone (20.62 g, 115 mmol) was added portionwise to stirred chlorosulphonic acid (61 mL, 918 mmol) at 0° C. The mixture was heated at 100° C. for 3.5 d and then cooled to room temperature. The reaction mixture was added in small portions onto ice-water [CAUTION] and the resulting precipitate was collected by filtration. The solid was washed with water, triturated with MeCN and then dried in vacuo to give 4-chloro-7-chlorosulphonyl-1-(2H)-isoquinolone (18.75 g, 67.4 mmol) as a cream solid.

reactant | 4-Chloro-1-(2H)-isoquinolone | 115 mmol, 20.62 g | ClC1=CNC(C2=CC=CC=C12)=O | C9H6ClNO
reactant | chlorosulphonic acid | 918 mmol, 61 mL | ClS(=O)(=O)O | ClHO3S
product | 4-chloro-7-chlorosulphonyl-1-(2H)-isoquinolone | 67.4 mmol, 18.75 g | ClC1=CNC(C2=CC(=CC=C12)S(=O)(=O)Cl)=O | C9H5Cl2NO3S
